US07723538B2
3-(5-Chloro-2-methoxy-benzenesulfonylamino)-N-[4-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-phenyl]-benzamide
A solution of 3-(5-chloro-2-methoxy-benzenesulfonylamino)-N-[4-(N-hydroxycarbamimidoyl)-phenyl]-benzamide (145 mg, 0.30 mmol) in dimethylformamide (2.0 ml) was treated with pyridine (26 mg, 1.08 equiv.) and cooled to 0° C. Chloroformic acid 2-ethylhexyl ester (59 mg, 0.30 mmol, 1 equiv.) in DMF (0.1 ml) was added dropwise. The mixture was stirred at 0° C. for 30 min, then diluted with water and extracted with ethyl acetate. The combined organic phases were dried over sodium sulfate and evaporated. The residue was suspended in xylene and the mixture was stirred at 100° C. for 1 h and then at 145° C. for 1 h. After cooling to room temperature, the precipitated solid was filtered, washing with xylene, and dried under high vacuum to yield the title compound (115 mg, 75%) as a white solid, MS (ISP): m/e=499.0 (M−H).

reactant | 3-(5-chloro-2-methoxy-benzenesulfonylamino)-N-[4-(N-hydroxycarbamimidoyl)-phenyl]-benzamide | 0.30 mmol, 145 mg | ClC=1C=CC(=C(C1)S(=O)(=O)NC=1C=C(C(=O)NC2=CC=C(C=C2)C(NO)=N)C=CC1)OC | C21H19ClN4O5S
reactant | pyridine | 26 mg, 1.08 equiv. | N1=CC=CC=C1 | C5H5N
reactant | Chloroformic acid 2-ethylhexyl ester | 0.30 mmol, 59 mg, 1 equiv. | C(C)C(COC(=O)Cl)CCCC | C9H17ClO2
solvent | dimethylformamide | 2.0 ml | CN(C=O)C | C3H7NO
solvent | DMF | 0.1 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-(5-Chloro-2-methoxy-benzenesulfonylamino)-N-[4-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-phenyl]-benzamide | 115 mg, 75% | ClC=1C=CC(=C(C1)S(=O)(=O)NC=1C=C(C(=O)NC2=CC=C(C=C2)C2=NOC(N2)=O)C=CC1)OC | C22H17ClN4O6S
